US06239131B1
Preparation of N-(2-nitrophenyl)-N-(2-cyanoethyl)aniline
Acrylonitrile (210 ml) and 40% benzyltrimethylammoniumhydroxide in methanol (1.5 ml) were added to 2-nitrodiphenylamine (100 g), and the mixture was refluxed with heat for one hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to thereby obtain 47.7 g of the titled compound as a red solid.

reactant | Acrylonitrile | 210 ml | C(C=C)#N | C3H3N
reactant | benzyltrimethylammoniumhydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 2-nitrodiphenylamine | 100 g | C1=CC=C(C=C1)NC2=CC=CC=C2[N+](=O)[O-] | C12H10N2O2
solvent | methanol | 1.5 ml | CO | CH4O
product | N-(2-nitrophenyl)-N-(2-cyanoethyl)aniline | 47.7 g | [N+](=O)([O-])C1=C(C=CC=C1)N(C1=CC=CC=C1)CCC#N | C15H13N3O2
